US08212032B2
Step 2: 1,1-dimethylethyl {cis-4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]cyclohexyl}carbamate
To a solution of cis-4-({[(1,1-dimethylethyl) oxy]carbonyl}amino)cyclohexanecarboxylic acid (3.0 g, 12 mmol, 1.0 equiv) and 1-[2-(trifluoromethyl)phenyl]methanamine (1.9 mL, 14 mmol, 1.0 equiv) in CH2Cl2 (82 mL) at room temperature, DMAP (301 mg, 2.47 mmol, 0.2 equiv) was added. EDC (2.95 g, 15.4 mmol, 1.25 equiv), and diisopropylethylamine (DIEA, 2.7 ml, 15 mmol, 1.25 equiv) were added. Stirring was continued overnight at room temperature. The solution was diluted with CH2Cl2 (100 ml), washed with saturated sodium bicarbonate (200 mL), water (200 mL), and brine (200 mL). The CH2Cl2 extracts were dried with MgSO4, filtered, and concentrated under reduced pressure to yield the title compound. MS (ES+): m/e 400.8 [M+Na]+.

reactant | cis-4-({[(1,1-dimethylethyl) oxy]carbonyl}amino)cyclohexanecarboxylic acid | 12 mmol, 3.0 g, 1.0 equiv | CC(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | 1-[2-(trifluoromethyl)phenyl]methanamine | 14 mmol, 1.9 mL, 1.0 equiv | FC(C1=C(C=CC=C1)CN)(F)F | C8H8F3N
reactant | EDC | 15.4 mmol, 2.95 g, 1.25 equiv
reactant | diisopropylethylamine | 15 mmol, 2.7 ml, 1.25 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 82 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.47 mmol, 301 mg, 0.2 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl {cis-4-[({[2-(trifluoromethyl)phenyl]methyl}amino)carbonyl]cyclohexyl}carbamate | FC(C1=C(C=CC=C1)CNC(=O)[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C20H27F3N2O3
